Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
lisinopril
 
Attending: ___
 
Chief Complaint:
Fever, chills
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ w/ Hx of C6/C7 fracture from a fall s/p 
repair w/ plate ___ ___, AAA (3.3 cm, stable), Asthma, Hx of 
nephrolithiasis, HLD, orthostatic hypotension (previously on 
midodrine, not currently), and SCC of the scalp s/p MOH's 
surgery ___ days who ago presents with fevers (100.5) and shaking 
chills for the past 1 day.  He had a resection of an SCC from 
the top of his head and skin grafting from the L shoulder 12 
days ago at a private dermatology practice ___ ___ 
Dermatology, Dr. ___.  The procedure was uncomplicated, 
but at his 1 week f/u visit, his shoulder was noted to have 
pus/redness concerning for cellulitis, and ___ addition, his 
scalp graft appeared purulent, so he was started on Cephalexin, 
and wound Cx sent (unclear if from scalp or shoulder).  Pt was 
called at home and his Rx was switched to Bactrim instead given 
reported sensitivities.  During this time, he was also seen by 
his PCP here, who noted continued erythema of shoulder wound and 
that the skin graft appeared dead and may need removal (per 
patient).  Last night (___), pt felt weak, and noted new 
chills/rigors. Today he noted fever, weakness, rigors again, and 
decided to come ___ for eval given symptoms despite abx and given 
his recent foreign body implantation (metal plate ___ neck).   

___ the ED, initial vitals were: 99.7 92 108/56 18 98% RA.  Exam 
notable for well-appearing male w/ 3.5cm graft on scalp, dark, 
with pus at edges, dehiscing on R aspect, erythema surrounding.  
L shoulder sutures ___ place, no swelling or exudate, redness, 
not warm to touch.  Remainder of exam WNL.  Labs were 
significant for WBC 7.0 w/ 88% PMNs, Hgb 12.0, plts 216, BUN/Cr 
___ (baseline 0.9), lytes WNL, Lactate 1.3.  BCx were drawn, 
the patient was administered 1L NS, Clindamycin 600 mg IV and 
Vancomycin 1000 mg IV, and was admitted.  Vitals prior to 
transfer were: 98.4 79 113/52 17 96% RA.

Currently, he is rigoring and feeling cold but otherwise has no 
complaints. 
 

ROS:  
No night sweats, or weight changes. No changes ___ vision or 
hearing, no changes ___ balance. No cough, no shortness of 
breath, no dyspnea on exertion. No chest pain or palpitations. 
No nausea or vomiting. No diarrhea or constipation. No dysuria 
or hematuria. No hematochezia, no melena. No numbness or 
weakness, no focal deficits.  

 
Past Medical History:
-AAA (3.3 cm, monitoring)
-Orthostatic hypotension - formerly on midodrine, now weaned off
-Asthma
-Gout (3 attacks ___ ___
-HLD
-BPH
-SCC s/p MOH's excision and skin grafting ___ ___
 
Social History:
___
Family History:
Noncontributory
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
========================

VS: 98.7 120/57 83 20 100% RA  
GEN: Alert, lying ___ bed, rigoring, appears uncomfortable 
HEENT: Moist MM, anicteric sclerae, no conjunctival pallor  
NECK: Supple without LAD  
PULM: Generally CTA b/l without wheeze or rhonchi  
COR: RRR (+)S1/S2 but distant heart sounds, no m/r/g  
ABD: Soft, non-tender, non-distended  
EXTREM: Warm, well perfused, no ___ edema
NEURO: CN II-XII grossly intact, motor function grossly normal  
SKIN: L shoulder with well-healing ~8 cm surgical incision with 
nonabsorbable sutures ___ place.  Mild poorly demarcated 
surrounded erythema, no edema, warmth, induration, or tenderness 
to palpation.  Scalp with ~2 x 2 cm necrotic, devitalized graft 
with dehiscence posteriorly and purulent discharge.  Some 
surrounding erythema but no fluctuance or palpable fluid 
collection

DISCHARGE PHYSICAL EXAM:
========================

VS:  100.5 97.9 119-129/60-68 ___ 16 98% RA
GEN: Alert, lying ___ bed, appears comfortable
HEENT: Moist MM, anicteric sclerae, no conjunctival pallor  
NECK: Supple without LAD  
PULM: Generally CTA b/l without wheeze or rhonchi  
COR: RRR (+)S1/S2 but distant heart sounds, no m/r/g  
ABD: Soft, non-tender, non-distended  
EXTREM: Warm, well perfused, no ___ edema
NEURO: CN II-XII grossly intact, motor function grossly normal  
SKIN: L shoulder with well-healing ~8 cm surgical incision with 
nonabsorbable sutures ___ place.  Mild poorly demarcated 
surrounded erythema, no edema, warmth, induration, or tenderness 
to palpation.  Scalp with ~2 x 2 cm necrotic, devitalized graft 
with dehiscence posteriorly and purulent discharge.  Some 
surrounding erythema but no fluctuance or palpable fluid 
collection

 
Pertinent Results:
ADMISSION LABS:
===============

___ 04:37PM BLOOD WBC-7.0 RBC-3.98* Hgb-12.0* Hct-35.9* 
MCV-90# MCH-30.2 MCHC-33.4 RDW-14.8 RDWSD-49.1* Plt ___
___ 04:37PM BLOOD Neuts-88.3* Lymphs-2.4* Monos-7.5 
Eos-0.9* Baso-0.3 Im ___ AbsNeut-6.22* AbsLymp-0.17* 
AbsMono-0.53 AbsEos-0.06 AbsBaso-0.02
___ 07:15AM BLOOD ___ PTT-31.1 ___
___ 04:37PM BLOOD Glucose-107* UreaN-21* Creat-1.7* Na-137 
K-4.4 Cl-102 HCO3-22 AnGap-17
___ 04:37PM BLOOD Calcium-9.2 Phos-2.9 Mg-1.9
___ 04:49PM BLOOD Lactate-1.3

PERTINENT MICRO:
================

___ 3:24 pm SWAB      Source: Scalp wound. 

                            **FINAL REPORT ___

   GRAM STAIN (Final ___: 
      1+    (<1 per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      1+    (<1 per 1000X FIELD):   GRAM POSITIVE COCCI. 
                                    ___ PAIRS AND CLUSTERS. 

   WOUND CULTURE (Final ___: 
      STAPH AUREUS COAG +.    SPARSE GROWTH OF TWO COLONIAL 
MORPHOLOGIES. 
         Staphylococcus species may develop resistance during 
prolonged
         therapy with quinolones.   Therefore, isolates that are 
initially
         susceptible may become resistant within three to four 
days after
         initiation of therapy.  Testing of repeat isolates may 
be
         warranted. 
      STAPHYLOCOCCUS, COAGULASE NEGATIVE.    RARE GROWTH. 

                              SENSITIVITIES: MIC expressed ___ 
MCG/ML
                      
_________________________________________________________
                             STAPH AUREUS COAG +
                             |   
CLINDAMYCIN-----------<=0.25 S
ERYTHROMYCIN----------<=0.25 S
GENTAMICIN------------ <=0.5 S
LEVOFLOXACIN----------  0.25 S
OXACILLIN-------------   0.5 S
TETRACYCLINE----------   <=1 S
TRIMETHOPRIM/SULFA---- <=0.5 S 

___  BLOOD CULTURE Blood Culture, Routine-NEGATIVE
___  BLOOD CULTURE Blood Culture, Routine-NEGATIVE 

PERTINENT IMAGING:
==================

ECG ___:
Sinus rhythm. Normal ECG. No previous tracing available for 
comparison.  
  
  Intervals     Axes 
Rate PR QRS QT QTc (___)    P QRS T 
81 ___ 394   63 28 44 
 

DISCHARGE LABS:
===============

___ 07:15AM BLOOD WBC-6.2 RBC-3.86* Hgb-11.5* Hct-35.0* 
MCV-91 MCH-29.8 MCHC-32.9 RDW-14.8 RDWSD-49.4* Plt ___
___ 06:38AM BLOOD Glucose-108* UreaN-14 Creat-1.1 Na-138 
K-3.7 Cl-105 HCO3-23 AnGap-14
___ 06:38AM BLOOD Calcium-8.5 Phos-3.3 Mg-2.0
___ 06:10PM URINE Color-Yellow Appear-Clear Sp ___
___ 06:10PM URINE Blood-NEG Nitrite-NEG Protein-30 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-NEG
___ 06:10PM URINE RBC-6* WBC-<1 Bacteri-NONE Yeast-NONE 
Epi-0
 
Brief Hospital Course:
Mr. ___ is a ___ w/ Hx of C6/C7 fracture from a fall s/p 
repair w/ plate ___ ___, AAA (3.3 cm, stable), Asthma, Hx of 
nephrolithiasis, HLD, orthostatic hypotension (previously on 
midodrine, not currently), and SCC of the scalp s/p ___'s 
surgery ___ days who ago presents with fevers (100.5) and shaking 
chills and evidence of a devitalized / infected skin graft.

ACTIVE ISSUES:
==============

# Necrotic skin graft with cellulitis: 
Purulence on exam coupled with fever/chills suggests this is the 
source of his infection.  Was covered as an outpatient initially 
with cephalexin, then switched to Bactrim (on ___ or ___ 
given sensitivities, suggesting that he has been appropriately 
covered for at least a few days.  Presence of pus suggests 
purulent infection.  He was started on Vancomycin and 
defervesced.  He received vancomycin for ~48 h and also received 
standing tylenol for rigors. BCx were negative, wound Cx pending 
at the time of discharge. Dermatology evaluated him and felt the 
dead graft did not require removal or debridement, and advised 
treating through, as it should function like a scab and protect 
the wound. When his symptoms improved, he was transitioned to 
Doxycycline + Keflex (Doxycycline given sensitivities on outside 
culture and Keflex to cover possible strep) to complete a total 
of 10 days of ABx. He was discharged home.

  
# ___: 
Patient's recent baseline Cr 0.9 ___ ___ Cr on admission 
1.7.  Etiology most likely pre-renal given insensible losses 
from fever, normal lactate reassuring that he is not 
hypoperfusing.  His Cr improved back to baseline with IVF.

CHRONIC ISSUES:
===============

# Orthostatic hypotension: 
Not currently an active issue; not currently on midodrine.  Pt 
reports that his typical baseline systolic BPs are ___ the 110s.  
He was not orthostatic on this admission.

# Hx of nephrolithiasis: 
Not currently an active issue.  His home potassium citrate was 
held (nonformulary)

# Asthma:
He was continued on his home Montelukast and 
fluticasone/salmeterol

# Gout:
Not currently an active issue

# AAA:
Not currently an active issue

# HLD:
His home statin was continued

# BPH: 
His home tamsulosin was held given the possibility of 
hypotension; it was restarted at discharge.
 
# CODE STATUS: Full (confirmed)
# CONTACT:  Wife/HCP (h ___, c: ___

TRANSITIONAL ISSUES:
====================
- Patient discharged on Doxycycline + Keflex to complete a total 
of 10 days of ABx (last day ___
- Patient's shoulder and scalp sutures were removed
- Patient was instructed to follow-up with his outpatient 
dermatologist within the next ___ days.
- Wound culture was with sparse growth of S. aureus at the time 
of discharge; final sensitivities were pending.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Fluticasone-Salmeterol Diskus (250/50)  1 INH IH DAILY 
2. Montelukast 10 mg PO DAILY 
3. potassium citrate 30  mEq oral BID 
4. Simvastatin 20 mg PO QPM 
5. Tamsulosin 0.4 mg PO QHS 
6. Ocuvite (vit C-vit E-lutein-min-om-3) 150-30-5-150 
mg-unit-mg-mg oral DAILY 
7. Acetaminophen 325-650 mg PO Q6H:PRN pain 
8. Guaifenesin ER 600 mg PO Q12H 
9. Vitamin D Dose is Unknown  PO DAILY 
10. Calcium Carbonate Dose is Unknown  PO Frequency is Unknown 

 
Discharge Medications:
1. Acetaminophen 325-650 mg PO Q6H:PRN pain 
2. Calcium Carbonate unknown  PO Frequency is Unknown 
3. Guaifenesin ER 600 mg PO Q12H 
4. Ocuvite (vit C-vit E-lutein-min-om-3) 150-30-5-150 
mg-unit-mg-mg oral DAILY 
5. potassium citrate 30  mEq oral BID 
6. Tamsulosin 0.4 mg PO QHS 
7. Vitamin D unknown  PO DAILY 
8. Fluticasone-Salmeterol Diskus (250/50)  1 INH IH DAILY 
9. Montelukast 10 mg PO DAILY 
10. Simvastatin 20 mg PO QPM 
11. Cephalexin 500 mg PO Q6H 
last day of antibiotics: ___ 
RX *cephalexin 500 mg 1 capsule(s) by mouth every 6 hours Disp 
#*28 Capsule Refills:*0
12. Doxycycline Hyclate 100 mg PO Q12H 
last day of antibiotics: ___ 
RX *doxycycline hyclate 100 mg 1 tablet(s) by mouth every 12 
hours Disp #*14 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary: Purulent cellulitis

Secondary: Orthostatic hypotension, history of squamous cell 
carcinoma of the scalp, aortic aneurysm

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was our pleasure caring for you at ___ 
___.  You were admitted to the hospital with fever 
and chills ___ the setting of having a skin infection around the 
site of your recent surgery.  Your kidneys function was also 
mildly decreased.  We gave you fluids through the IV, and your 
kidney function improved back to normal.  Our dermatologists 
evaluated you and felt that the skin graft on your head was 
likely dead, but recommended leaving it ___ place because it will 
act like a scab and help protect the wound while it heals.  They 
did not think you needed any more surgery, and recommended 
continuing to treat with antibiotics.  

For your infection, we treated you initially with antibiotics 
through the IV.  We checked for evidence of bacteria ___ your 
blood and did not find any.  Over the next two days, your fever 
and rigors gradually disappeared.  When you were feeling better, 
we transitioned you to two oral antibiotics (Doxycycline and 
Keflex) that you will continue to take for 7 more days (last day 
___.  You should call your dermatologist to schedule a 
follow-up appointment to be seen ___ the next few days.

Thank you for allowing us to participate ___ your care.
 
Followup Instructions:
___